US06486184B2
In a dry 25 mL round bottom flask under argon was placed diazo-(3,4-dichloro-phenyl)-acetic acid methyl ester (from Example 1,550 mg 2.24 mmol) and cyclohexanol (0.47 mL, 4.49 mmol) in dichloromethane (10 mL). The solution was stirred at 25° C. and as rhodium (II) acetate dimer (20 mg, 0.045 mmol) was added, the immediate evolution of gas was observed and the color changed from bright yellow to an aquagreen color. After the solution was stirred at 25° C. for 1 h, it was poured into water and the layers were separated. The aqueous layer was washed with dichloromethane (3×15 mL) and the combined organic layers were dried over sodium sulfate and evaporated under reduced pressure. The residual oil was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 98/2 hexanes/ethyl acetate) to furnish rac-cyclohexyloxy-(3,4-dichloro-phenyl)-acetic acid methyl ester (527 mg, 74% yield) as a clear colorless oil: EI-HRMS m/e calcd for C15H18Cl2O3 (M+) 316.0633, found 316.0646.

reactant | diazo-(3,4-dichloro-phenyl)-acetic acid methyl ester | 2.24 mmol, 1,550 mg | COC(C(C1=CC(=C(C=C1)Cl)Cl)=[N+]=[N-])=O | C9H6Cl2N2O2
reactant | cyclohexanol | 4.49 mmol, 0.47 mL | C1(CCCCC1)O | C6H12O
reactant | water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | rhodium (II) acetate dimer | 0.045 mmol, 20 mg | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | rac-cyclohexyloxy-(3,4-dichloro-phenyl)-acetic acid methyl ester | 527 mg, 74% yield | COC(C(C1=CC(=C(C=C1)Cl)Cl)OC1CCCCC1)=O | C15H18Cl2O3
